US04455422
5.0 Grams of 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril and 7.5 g of sodium iodide were dispersed in 120 ml of anhydrous dimethylformamide and the mixture was stirred at 50°-60° C. for 2 hours. To this reaction mixture were added 10 g of 4-(3-chlorophenyl)piperazine and 5 ml of triethylamine and was stirred at 50°-60° C. for 6 hours, then stirred at a room temperature for 24 hours. The reaction mixture was concentrated under a reduced pressure to obtain a residue. To the residue thus obtained was added 80 ml of 5%-sodium hydrogencarbonate solution and the organic layer was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation. The residue thus obtained was crystallized with ether to obtain crude crystals and the crude crystals were recrystallized from ethanol to obtain 6.5 g of 6-{1-oxo-4-[4-(3-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril in colorless needle-like crystals.

reactant | 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril | O=C(CCCCl)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
reactant | sodium iodide | 7.5 g | [I-].[Na+]
reactant | 4-(3-chlorophenyl)piperazine | 10 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 6-{1-oxo-4-[4-(3-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril | 6.5 g | O=C(CCCN1CCN(CC1)C1=CC(=CC=C1)Cl)C=1C=C2CCC(NC2=CC1)=O | C23H26ClN3O2
